Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7]=[C:8]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],2.68094259894
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7],3.56762007239
[C:1][C@:2]([H:3])([O:4][O:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:4][O:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:3],1.98312619098
[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.99508594611
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.42571727829
[H:9].[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.8879643002
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[O:1],2.87972649245
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12],1.82200176773
[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:8][O:9][H:10].[H:7],2.38698079796
[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.66136438325
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[O:13][H:14].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.75338833648
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15],4.96180380049
[C:1][C:2]#[C:3][C:4]([H:5])[O:6][O:7]>>[C:1]#[C:2].[C:3]=[C:4]([H:5])[O:6][O:7],7.35279996025
[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12][H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.1313439798000005
[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-0.82692917958
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:9].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],5.4597628480900005
[C:1]=[O:2].[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13]>>[C:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.07812741004
[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7][H:8].[O:9][H:10]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-6.14585051306
[H:1][C:2][C:10]([H:11])([H:12])[H:13].[O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.12717426296
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-7.240496033849999
[C:2]=[C:3]([C:4]([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.70581295519
[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])=[C:9][H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])=[C:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.59400063461
[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.38086872227
[H:1][C:2]([O:3][C:4]([C:5]([H:6])[H:7])=[O:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]1[O:3][C:4](=[C:5]([H:6])[H:7])[O:8][C:9]1([H:10])[H:11],0.531853191329
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1]/[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12](/[H:13])[C:14]([H:15])([H:16])[H:17],-5.7691185885000005
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.4047225074400003
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]#[C:4][O:5][H:6]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.29396230105
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.0474127634
